US03966938
cis-6-(4-Aminophenyl)-1,2,3,4,4a,10b-hexahydro-8,9-dimethoxy-2-methyl-benzo[c][1,6]naphthyridine.
2,7 g of iron turnings are added to a hot solution of 2.0 g of cis-1,2,3,4,4a,10b-hexahydro-8,9-dimethoxy-2-methyl-6-(4-nitrophenyl)-benzo[c][1,6]naphthyridine in 40 cc of ethanol and 13 cc of water. A mixture of 13 cc of ethanol, 3 cc of water and 0.7 cc of 2 N hydrochloric acid is added dropwise within 40 minutes while heating, and the reaction mixture is boiled under reflux for a further 3 hours. 1 cc of a 2 N caustic soda solution is then added, filtration is effected and the filtrate is concentrated by evaporation in a vacuum. The residue is dissolved in chloroform, the solution is dried over sodium sulphate, filtered and concentrated by evaporation in a vacuum. The residue is crystallized from ethyl acetate, whereby yellowish prisms having a M.P. of 168°-170°, are obtained.

reactant | cis-1,2,3,4,4a,10b-hexahydro-8,9-dimethoxy-2-methyl-6-(4-nitrophenyl)-benzo[c][1,6]naphthyridine | 2.0 g | COC=1C(=CC2=C(C(=N[C@H]3CCN(C[C@@H]23)C)C2=CC=C(C=C2)[N+](=O)[O-])C1)OC | C21H23N3O4
reactant | hydrochloric acid | 2 N, 0.7 cc | Cl | ClH
reactant | caustic soda | 2 N | [OH-].[Na+]
solvent | ethanol | 40 cc | C(C)O | C2H6O
solvent | water | 13 cc | O | H2O
catalyst | iron | 2,7 g | [Fe] | Fe
solvent | water | 3 cc | O | H2O
solvent | ethanol | 13 cc | C(C)O | C2H6O
product | cis-6-(4-Aminophenyl)-1,2,3,4,4a,10b-hexahydro-8,9-dimethoxy-2-methyl-benzo[c][1,6]naphthyridine | NC1=CC=C(C=C1)C1=N[C@H]2CCN(C[C@H]2C2=C1C=C(C(=C2)OC)OC)C | C21H25N3O2
